US07037932B2
4-Cyano-7-hydroxy benzo[b]thiophene
To a solution of 4-cyano-7-methoxy benzo[b]thiophene (450 mg, 2.38 mmol, 1 equiv.) in dry DMF (20 mL) was added sodium ethanethiolate (80% technical grade, 1.34 g, ˜13 mmol, ˜5 equiv.) and the reaction mixture was heated at 150° C. for 2 hr. The mixture was cooled to room temperature and ethyl acetate and 1N HCl were added and the layers were separated. The aqueous layer was extracted with ethyl acetate and the combined organic extracts were washed with brine (3 times), dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The acquired material thus obtained was purified via medium pressure liquid chromatography eluting with 30% ethyl acetate/70% hexanes to afford the title compound (414 mg, 99%) as a colorless solid; □H (400 MHz, CD3OD) 6.80 (1H, d, J=8 Hz), 7.47 (1H, d, J=6 Hz), 7.64 (1H, d, J=8 Hz), 7.83 (1H, d, J=6 Hz).

reactant | 4-cyano-7-methoxy benzo[b]thiophene | 2.38 mmol, 450 mg, 1 equiv. | C(#N)C1=CC=C(C=2SC=CC21)OC | C10H7NOS
reactant | sodium ethanethiolate | ˜13 mmol, 1.34 g, ˜5 equiv. | C(C)[S-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Cyano-7-hydroxy benzo[b]thiophene | 414 mg, 99% | C(#N)C1=CC=C(C=2SC=CC21)O | C9H5NOS
